US08865713B2
Step D: 1-[6-Chloro-1-(2-methoxy-ethoxymethyl)-5-nitro-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a solution of 2,6-dichloro-1-(2-methoxy-ethoxymethyl)-5-nitro-1H-benzoimidazole (6.15 g, 19.2 mmol), 1H-pyrazole-4-carboxylic acid ethyl ester (2.96 g, 21.1 mmol) and DMF (40 mL) was added cesium carbonate (12.5 g, 38.4 mmol) in a sealable pressure vessel. The vessel was purged with nitrogen, sealed, and heated at 60° C. for 2 h. The reaction mixture was poured into a 1:1 mixture of brine/water (80 mL), and was extracted with EtOAc (3×125 mL). The combined organic layers were washed with brine (3×125 mL), dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (5-45% EtOAc/hexanes) to yield the titled compound (8.09 g, 98%) as a mixture of regioisomers. MS (ESI/CI): mass calcd. for C17H18ClN5O6, 423.1; m/z found, 424.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.93 (d, J=0.6 Hz, 1H), 8.28 (s, 1H), 8.22 (d, J=0.6 Hz, 1H), 7.83 (s, 1H), 6.26 (s, 2H), 4.37 (q, J=7.1 Hz, 2H), 3.73-3.67 (m, 2H), 3.49-3.44 (m, 2H), 3.29 (s, 3H), 1.39 (t, J=7.1 Hz, 3H).

reactant | 2,6-dichloro-1-(2-methoxy-ethoxymethyl)-5-nitro-1H-benzoimidazole | 19.2 mmol, 6.15 g | ClC1=NC2=C(N1COCCOC)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11Cl2N3O4
reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 21.1 mmol, 2.96 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | cesium carbonate | 38.4 mmol, 12.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-[6-Chloro-1-(2-methoxy-ethoxymethyl)-5-nitro-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 8.09 g, 98% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)[N+](=O)[O-])Cl | C17H18ClN5O6
